US09102684B2
6-Bromo-7-methyl-1H-indole-2,3-dione
A mixture of N-(3-Bromo-2-methyl-phenyl)-2-hydroxyimino-acetamide (18.0 g, 0.07 mol), conc.H2SO4 (150 mL) is stirred at 80° C. for 1 h. After reaction, poured the reaction mixture to ice water (2 L) the mixture is filtered and the solid is dried under vacuum to give product.

reactant | N-(3-Bromo-2-methyl-phenyl)-2-hydroxyimino-acetamide | 0.07 mol, 18.0 g | BrC=1C(=C(C=CC1)NC(C=NO)=O)C | C9H9BrN2O2
reactant | H2SO4 | 150 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-7-methyl-1H-indole-2,3-dione | BrC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6BrNO2
